US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride as starting compound and 5-((1,4-benzodioxan-6-yl)methoxy)pentyl chloride were reacted and treated in the same manner as in Example 168 to give 4-amino-5-chloro-N-((1-(5-((1,4-benzodioxan-6-yl)methoxy)pentyl)piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 5-((1,4-benzodioxan-6-yl)methoxy)pentyl chloride | O1CCOC2=C1C=CC(=C2)COCCCCCCl | C14H19ClO3
product | 4-amino-5-chloro-N-((1-(5-((1,4-benzodioxan-6-yl)methoxy)pentyl)piperidin-4-yl)methyl)-2-methoxybenzamide | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCOCC2=CC3=C(OCCO3)C=C2)C=C1Cl)OC | C28H38ClN3O5
